US04166115
Phosphorus pentachloride (3.3 g.) was added under ice-cooling to a suspension of 2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetic acid (syn isomer) (1.5 g.) in methylene chloride (30 ml.) and the mixture was stirred for 30 minutes at ambient temperature. Methylene chloride was distilled off under reduced pressure and acetone was added to the residue to give a suspension. On the other hand, a suspension of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2.2 g.) in an aqueous solution of sodium bicarbonate (0.76 g. in 50 ml. of water) was stirred for 10 minutes and acetone (50 ml.) was added thereto to give a solution. To the solution was dropwise added the above obtained suspension containing acid chloride with stirring and ice-cooling and keeping the solution at pH 7.5 to 8.5 with a 20% aqueous solution of sodium carbonate. The mixture was stirred for 1 hour at 3° to 5° C. and pH 8.0. Acetone was distilled off under reduced pressure and the residue was adjusted to pH 7.4 with a saturated aqueous solution of sodium bicarbonate and further adjusted to pH 4.5 with 10% hydrochloric acid with stirring and ice-cooling. Precipitates were filtered off and the filtrate was saturated with sodium chloride, adjusted to pH 2.5 with 10% hydrochloric acid and stirred for 1 hour. Precipitates were collected by filtration, washed with water and dried to give 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (a mixture of syn and anti isomers) (0.95 g.).

reactant | Phosphorus pentachloride | 3.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetic acid | 1.5 g | CON=C(C(=O)O)C=1N=C(SC1)N | C6H7N3O3S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.2 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | sodium bicarbonate | 50 ml, 0.76 g | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)N | C16H17N9O5S3
